US06462032B1
5-(3-Chloro-phenyl)-1,3-dihydro-indol-2-one
A solution of the 5-bromoxindole (0.5 g, 2.4 mmol) and tetrakis(triphenylphosphine) palladium (0.14 g, 0.12 mnmol) in dimethoxyethane (10 cm3) was stirred under N2 for 20 mm. To this mixture was then added 3-chlorophenylboronic acid (0.44 g, 2.83 mmol) and sodium carbonate (0.75 g, 7.1 mmol) in water (4 cm3). The solution was brought to refiux for 6 h then cooled to RT, poured into water and extracted with EtOAc (×3). The combined organic extracts were washed with water, brine, dried (MgSO4), and evaporated. The residue was purified by column chromatography (SiO2, ethyl acetate: hexane 1:3) to afford the title compound (0.49 g, 2.0 mmol, 86%) as a tan solid: m.p. 169-171° C. 1H NMR (THF-d8) δ 3.45 (s, 2H), 6.85 (d, 1H J=8.1 Hz), 7.25 (d, J=8.0 Hz, 1H), 7.35 (dd, J=7.8, 7.8 Hz, 1H), 7.43 (d, J=8.1 Hz, 1H), 7.49 (d, J=7.8 Hz, 1H), 7.50 (s, 1H), 7.59 (dd, J=1.78, 1.78 Hz, 1H), 9.5 (br s, 1H); 13C NMR (THF-d8) δ 36.39 (t), 109.80, 123.97, 125.55, 127.19 (d), 127.68 (s), 130.89 (d), 133.73, 135.29, 144.23, 145.09, 176.45 (s); MS (EI) m/z 243, 245 (M)+; Anal. (C14H10ClNO) C, H, N.

reactant | 5-bromoxindole | 2.4 mmol, 0.5 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 3-chlorophenylboronic acid | 2.83 mmol, 0.44 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 7.1 mmol, 0.75 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 10 cm3 | C(OC)COC | C4H10O2
solvent | water | 4 cm3 | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 0.14 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(3-Chloro-phenyl)-1,3-dihydro-indol-2-one | 2.0 mmol, 0.49 g, 86% | ClC=1C=C(C=CC1)C=1C=C2CC(NC2=CC1)=O | C14H10ClNO
